US04261924
At 0° C., 10 liters of methylamine is passed into a solution of 61.4 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride in 200 ml of diethyl ether. After the mixture has been stirred for 6 hours at 25° C., it is poured onto ice water, and the aqueous phase is separated and evaporated to dryness. There is obtained 51 g (85% of theory) of N-methyl-4-nitro-2-trichloromethylphenylsulfenamide as an oil (nD20 :1.6610).

reactant | methylamine | 10 liters | CN | CH5N
reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | N-methyl-4-nitro-2-trichloromethylphenylsulfenamide | 51 g, 85% | CNSC1=C(C=C(C=C1)[N+](=O)[O-])C(Cl)(Cl)Cl | C8H7Cl3N2O2S
